US08389511B2
Methyl 1-(4-methoxybutyl)-3,3-dimethyl-2-oxoindoline-6-carboxylate
To 6-bromo-1-(4-methoxybutyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (1.0 g) were added palladium acetate (207 mg), triphenylphosphine (484 mg), triethylamine (0.86 ml), methanol (0.62 ml), and DMF (10 ml), and the mixture was stirred at 100° C. under carbon monoxide atmosphere for 4 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. This ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to give the title compound (480 mg) as a pale yellow liquid.

reactant | 6-bromo-1-(4-methoxybutyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 1.0 g | BrC1=CC=C2C(C(N(C2=C1)CCCCOC)=O)(C)C | C15H20BrNO2
reactant | triphenylphosphine | 484 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.86 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.62 ml | CO | CH4O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 207 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | Methyl 1-(4-methoxybutyl)-3,3-dimethyl-2-oxoindoline-6-carboxylate | 480 mg | COCCCCN1C(C(C2=CC=C(C=C12)C(=O)OC)(C)C)=O | C17H23NO4
